US04061671
a. Synthesis of dimethyl 2-oxo-3,3-dimethyl-4-ethoxy-butyl-phosphonate (IVa)
18 g of dimethyl methylphosphonate in 100 ml of tetrahydrofurane were cooled under argon to -70° C. 100 ml of a 2-molar n-butyl-lithium solution in hexane are added dropwise with stirring. After 15 minutes, 20 g of 1,1-dimethyl-2-ethoxy-propionic acid methyl ester in 75 ml of tetrahydrofurane were added dropwise at -70° C. The mixture was then stirred for 2 hours. It was neutralised with 12 ml of glacial acetic acid. The solvent was concentrated (sic) in vacuo, the residue was taken up in chloroform and washed with water and the chloroform phase was dried with MgSO4 and concentrated and the residue was distilled in vacuo.

reactant | dimethyl methylphosphonate | 18 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl-lithium | 2-molar | C(CCC)[Li]
reactant | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofurane | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | dimethyl 2-oxo-3,3-dimethyl-4-ethoxy-butyl-phosphonate | O=C(CP(OC)(OC)=O)C(COCC)(C)C | C10H21O5P
